US06124323
3-((2-(4-Benzylpiperidin-1-yl)ethyl)oxy)benzaldehyde oxime
To a solution of 3-((2-(4-benzylpiperidin-1-yl)ethyl)oxy)benzaldehyde (200 mg, 0.620 mmol) in 6 mL of 50% aqueous EtOH was added a solution of hydroxylamine hydrochloride (110 mg, 1.55 mmol) and sodium acetate (246 mg, 2.77 mmol) in 50% aqueous EtOH (10 mL). The resulting solution was allowed to stir at room temperature for 3 days. The EtOH was evaporated and a colorless solid was collected by filtration and dried to give the product (160 mg, 70%): mp 141-143° C.; 1H NMR (CDCl3) 1.40 (m, 2 H), 1.50 (m, 1 H), 1.64 (m, 2 H), 2.12 (m, 2 H), 2.54 (m, 2 H), 2.85 (s, 2 H), 3.08 (m, 2 H), 4.21 (m, 2 H), 6.88-7.28 (m, 9 H), 8.04 (s, 1 H), 10.00 (bs, 1 H).

reactant | 3-((2-(4-benzylpiperidin-1-yl)ethyl)oxy)benzaldehyde | 0.620 mmol, 200 mg | C(C1=CC=CC=C1)C1CCN(CC1)CCOC=1C=C(C=O)C=CC1 | C21H25NO2
reactant | hydroxylamine hydrochloride | 1.55 mmol, 110 mg | Cl.NO
reactant | sodium acetate | 2.77 mmol, 246 mg | C(C)(=O)[O-].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-((2-(4-Benzylpiperidin-1-yl)ethyl)oxy)benzaldehyde oxime | 160 mg, 70% | C(C1=CC=CC=C1)C1CCN(CC1)CCOC=1C=C(C=NO)C=CC1 | C21H26N2O2
